simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vtrig (event_in 0) vsource type=pulse val0=0 val1=0.9 delay=5n rise=40p fall=40p width=600p period=18n

XDUT (event_in vdd vss stretched_pulse) balanced_pulse_stretcher

tran tran stop=140n maxstep=200p
save event_in stretched_pulse
