simulator lang=spectre
global 0

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=9n period=20n
Vvin (vin 0) vsource type=pwl wave=[ \
  0 0.15 \
  25n 0.15 \
  25.1n 0.80 \
  65n 0.80 \
  65.1n 0.35 \
  105n 0.35 \
  105.1n 0.75 \
  165n 0.75 \
]

XDUT (vdd vss clk vin vout) sample_hold_droop_ref vth=0.45 tau=120n dt=0.5n trf=40p

tran tran stop=170n maxstep=0.1n
save vin clk vout

ahdl_include "sample_hold_droop_ref.va"
