// clk_div gold smoke testbench
// 100 MHz input clock, divide-by-4 output. Run 300ns.
// Check: output edge count ≈ input/4 (ratio 3-5).
simulator lang=spectre
global 0

ahdl_include "clk_div.va"

Vclk_in (clk_in 0) vsource type=pulse val0=0 val1=0.9 period=10n width=5n rise=100p fall=100p
Vrst_n  (rst_n  0) vsource type=pwl wave=[0 0  4.9n 0  5n 0.9  300n 0.9]

IDUT (clk_in rst_n clk_out) clk_div vth=0.45 vdd=0.9

tran tran stop=300n maxstep=1n
save clk_in clk_out
