simulator lang=spectre
global 0

Vvdd (VDD 0) vsource dc=0.9
Vvss (VSS 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=5n rise=20p fall=20p width=10n period=20n
Vin  (in 0) vsource type=pwl wave=[ 0 0.10 18n 0.10 20n 0.35 38n 0.35 40n 0.60 58n 0.60 60n 0.25 78n 0.25 80n 0.75 100n 0.75 ]

XDUT (VDD VSS clk in out) sample_hold_step_ref

tran tran stop=100n maxstep=100p
save in clk out

ahdl_include "sample_hold_step_ref.va"
